US05476846
a) 2[2-[4-(Bromomethyl)phenyl]ethoxy]-3,4,5,6-tetrahydro-2H-pyrane
A mixture of 16.9 g (78.5 mmoles) of 4-(bromomethyl)benzeneethanol (prepared according to Plaue S. and Heissler D. Tetrahedron Lett. (1987) 28, 1401-4), 10.6 g (125 mmoles) of 3,4-dihydro-2H-pyrane and 0.16 g of para-toluenesulfonic acid in 160 ml dry ethyl ether, is stirred 16 hours at room temperature. The reaction mixture is thereafter washed with a solution saturated with sodium bicarbonate, then water, dried over Na2SO4 and concentrated, to give 21.5 g (yield=91.5%) of a yellow oil used without other purification.

reactant | 4-(bromomethyl)benzeneethanol | 78.5 mmoles, 16.9 g | BrCC1=CC=C(C=C1)CCO | C9H11BrO
reactant | 3,4-dihydro-2H-pyrane | 125 mmoles, 10.6 g | O1CCCC=C1 | C5H8O
solvent | ethyl ether | 160 ml | C(C)OCC | C4H10O
catalyst | para-toluenesulfonic acid | 0.16 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2[2-[4-(Bromomethyl)phenyl]ethoxy]-3,4,5,6-tetrahydro-2H-pyrane | 21.5 g, yield=91.5% | BrCC1=CC=C(C=C1)CCOC1OCCCC1 | C14H19BrO2
